US07598417B2
1-(4-Bromo-indan-2-yl)-3-(2-fluoro-ethyl)-urea:
The title urea was generated from 4-bromo-2-isocyanato-indan (12.00 mmol), fluoroethyl amine hydrochloride (1.20 g, 90% purity, 10.85 mmol) and diisopropylethyl amine (4.20 mL, 24.11 mmol) according to the protocol described in general procedure G. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ 2.64-2.94 (m, 2H), 3.06-3.42 (m, 4H), 4.28-4.40 (m, 2H), 4.5 (t, 1H, J=5.0 Hz), 6.0 (t, 1H, J=5.6 Hz), 6.4 (d, 1H, J=7.0 Hz), 7.1 (t, 1H, J=7.9 Hz), 7.2 (d, 1H, J=7.3 Hz), 7.4 (d, 1H, J=7.9 Hz).

reactant | urea | NC(=O)N | CH4N2O
reactant | 4-bromo-2-isocyanato-indan | 12.00 mmol | BrC1=C2CC(CC2=CC=C1)N=C=O | C10H8BrNO
reactant | fluoroethyl amine hydrochloride | 10.85 mmol, 1.20 g | Cl.FCCN
reactant | diisopropylethyl amine | 24.11 mmol, 4.20 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 1-(4-Bromo-indan-2-yl)-3-(2-fluoro-ethyl)-urea | BrC1=C2CC(CC2=CC=C1)NC(=O)NCCF | C12H14BrFN2O
